US04410537
2-Hydroxy-6-methoxybenzaldehyde (26.0 g, 0.17 M), ethyl 5-bromopentanoate (27.1 ml, 0.17 M), anhydrous potassium carbonate (25.4 g), sodium iodide (1.04 g) and ethanol (230 ml) were refluxed with stirring for 16 hours. The cooled reaction mixture was filtered and the solid washed well with ethanol. The filtrate was evaporated to dryness and the residue partitioned between ether (200 ml) and water (200 ml). The organic layer was separated and washed with 2 N sodium hydroxide solution (1×150 ml), water (1×150 ml), brine (1×150 ml), dried (magnesium sulphate) and evaporated to yield ethyl 5-(2-formyl-3-methoxyphenoxy)pentanoate 32.97 g, 67% yield, as a pale yellow oil that solidified on standing in the refrigerator.

reactant | 2-Hydroxy-6-methoxybenzaldehyde | 0.17 M, 26.0 g | OC1=C(C=O)C(=CC=C1)OC | C8H8O3
reactant | ethyl 5-bromopentanoate | 0.17 M, 27.1 ml | BrCCCCC(=O)OCC | C7H13BrO2
reactant | potassium carbonate | 25.4 g | C([O-])([O-])=O.[K+].[K+]
catalyst | sodium iodide | 1.04 g | [I-].[Na+]
solvent | ethanol | 230 ml | C(C)O | C2H6O
product | ethyl 5-(2-formyl-3-methoxyphenoxy)pentanoate | 32.97 g, 67% yield | C(=O)C1=C(OCCCCC(=O)OCC)C=CC=C1OC | C15H20O5
